US07084170B2
2-Bromo-4-chlorobenzoic acid
An aqueous solution of sodium nitrate (2.21 g) in water (15 mL) is added dropwise to a stirred, ice-cooled mixture of 2-amino-4-chlorobenzoic acid (5.00 g, 29.1 mmol) and 48% hydrobromic acid (150 mL) in water (150 mL). The resultant mixture is stirred for 2 hr at 0° C. Then it is treated dropwise with an aqueous solution of copper bromide (7.81 g) in water (20 mL). Upon the completion of the addition, the reaction mixture is allowed to warm to ambient temperature where it is stirred overnight. After extraction with ethyl acetate/hexanes (3:1; 2×400 mL), the combined organic layers are washed with brine (200 mL), dried, concentrated, and chromatographed on silica (1% methyl alcohol and 0.5% acetic acid in chloroform) to give the title compound (4.04 g, 59% yield). mp 154–155° C.; ES(−)MS m/z 233, (M−H)− consistent with 1 Br an 1 Cl.

reactant | sodium nitrate | 2.21 g | [N+](=O)([O-])[O-].[Na+]
reactant | 2-amino-4-chlorobenzoic acid | 29.1 mmol, 5.00 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | hydrobromic acid | 150 mL | Br | BrH
solvent | water | 15 mL | O | H2O
solvent | water | 150 mL | O | H2O
solvent | water | 20 mL | O | H2O
catalyst | copper bromide | 7.81 g | [Cu](Br)Br
product | 2-Bromo-4-chlorobenzoic acid | 4.04 g, 59% yield | BrC1=C(C(=O)O)C=CC(=C1)Cl | C7H4BrClO2
